US04124765
N1 -acetoxyethoxymethyl-5-fluorouracil was reacted with 1N NaOH for 1 hour at 40° C. to obtain N1 -2-hydroxyethoxymethyl-5-fluorouracil.

reactant | N1 -acetoxyethoxymethyl-5-fluorouracil | C(C)(=O)OCCOCN1C(=O)NC(=O)C(=C1)F | C9H11FN2O5
reactant | NaOH | 1N | [OH-].[Na+]
product | N1 -2-hydroxyethoxymethyl-5-fluorouracil | OCCOCN1C(=O)NC(=O)C(=C1)F | C7H9FN2O4
